US06486341B1
P-1) N-(2-formylphenyl)N-methoxycarbamic acid methyl ester
A solution of 27.4 g of (2-bromomethyl-phenyl)-N-methoxycarbamic acid methyl ester in 50 ml of acetonitrile is added dropwise at room temperature to 40 g of N-methyl-morpholine-N-oxide in 150 ml of acetonitrile. After stirring for 16 hours, the mixture is concentrated and the residue partitioned between ethyl acetate and water. The aqueous phase is extracted with ethyl acetate and, after drying over sodium sulphate, the solvent is distilled from the combined organic phases. The residue is purified on silica gel using ethyl acetate/hexane (1:5% by volume). The title compound is obtained in the form of a yellow oil.

reactant | (2-bromomethyl-phenyl)-N-methoxycarbamic acid methyl ester | 27.4 g | COC(N(OC)C1=C(C=CC=C1)CBr)=O | C10H12BrNO3
reactant | N-methyl-morpholine-N-oxide | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | N-(2-formylphenyl)N-methoxycarbamic acid methyl ester | COC(N(OC)C1=C(C=CC=C1)C=O)=O | C10H11NO4
